US07737153B2
[4-(2,3-Dihydro-1H-pyrrolo[2,3-b]pyridin-4-yloxy)-3-fluorophenyl]amine
50 mg (0.09 mmol) of N-[3-fluoro-4-({1-[(4-methylphenyl)sulfonyl]-2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-yl}oxy)phenyl]-4-methylphenylsulfonamide (from example XLV) are dissolved in 1.00 ml of sulfuric acid (95%) and stirred at RT overnight. With ice-cooling, the reaction solution is neutralized with 20% strength aqueous sodium hydroxide solution, and the mixture is extracted three times with ethyl acetate. The organic phase is dried over anhydrous magnesium sulfate and concentrated.

reactant | N-[3-fluoro-4-({1-[(4-methylphenyl)sulfonyl]-2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-yl}oxy)phenyl]-4-methylphenylsulfonamide | 0.09 mmol, 50 mg | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(CC2)S(=O)(=O)C2=CC=C(C=C2)C)NS(=O)(=O)C2=CC=C(C=C2)C | C27H24FN3O5S2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 1.00 ml | S(O)(O)(=O)=O | H2O4S
product | [4-(2,3-Dihydro-1H-pyrrolo[2,3-b]pyridin-4-yloxy)-3-fluorophenyl]amine | N1CCC=2C1=NC=CC2OC2=C(C=C(C=C2)N)F | C13H12FN3O
